### PR TITLE
[Merged by Bors] - feat(Algebra): lemma about `IsBaseChange` under exact sequence

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this lemma, we proved cokernel preserve `IsBaseChange S` and kernel preserve `IsBaseChange S` when `S` is flat.

Co-authored-by: Wang Jingting <wangjt2020@163.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Flat/IsBaseChange.lean [hunk 1]
```diff
@@ -0,0 +1,78 @@
...
+variable {M₁ M₂ M₃ N₁ N₂ N₃ : Type*} [AddCommGroup M₁] [AddCommGroup M₂] [AddCommGroup M₃]
+  [AddCommGroup N₁] [AddCommGroup N₂] [AddCommGroup N₃] [Module R M₁] [Module R M₂] [Module R M₃]
+  [Module R N₁] [Module R N₂] [Module R N₃] [Module S N₁] [Module S N₂] [Module S N₃]
+  [IsScalarTower R S N₁] [IsScalarTower R S N₂] [IsScalarTower R S N₃]
+  (h₁ : M₁ →ₗ[R] N₁) (h₂ : M₂ →ₗ[R] N₂) (h₃ : M₃ →ₗ[R] N₃)
+  {f : M₁ →ₗ[R] M₂} {g : M₂ →ₗ[R] M₃} {f' : N₁ →ₗ[S] N₂} {g' : N₂ →ₗ[S] N₃}
+  (comm1 : h₂.comp f = (f'.restrictScalars R).comp h₁)
+  (comm2 : h₃.comp g = (g'.restrictScalars R).comp h₂)
+
+include comm1 comm2 in
```
Comment (urkud) [inline Mathlib/RingTheory/Flat/IsBaseChange.lean]: IMHO, it's more readable if you repeat the explicit arguments in each lemma.

File: Mathlib/RingTheory/Flat/IsBaseChange.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+Copyright (c) 2024 Jingting Wang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jingting Wang
+-/
+import Mathlib.Algebra.FiveLemma
+import Mathlib.RingTheory.Flat.Basic
+
+/-!
+
+# Lemmas about IsBaseChange under Exact Sequences
```
Comment (urkud) [inline Mathlib/RingTheory/Flat/IsBaseChange.lean]: Please add more docs, both at the module level and for specific lemmas.

File: Mathlib/RingTheory/Flat/IsBaseChange.lean (hunk 1 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Flat/IsBaseChange.lean]: Which part of arguments? As you see in the file `FiveLemma`, it is done in the same way.

File: Mathlib/RingTheory/Flat/IsBaseChange.lean [hunk 3]
```diff
@@ -0,0 +1,103 @@
...
+i₁         i₂         i₃
+|          |          |
+v          v          v
+N₁ --g₁--> N₂ --g₂--> N₃
+
+* `IsBaseChange.of_right_exact` : If `f₂` and `g₂` are surjective,
+  `i₁` and `i₂` is base change by `S`, then `i₃` is base change by `S`.
+
+* `IsBaseChange.of_left_exact` : If `S` is flat over `R`, `f₁` and `g₁` are injective,
+  `i₂` and `i₃` is base change by `S`, then `i₁` is base change by `S`.
```
Comment (erdOne) [inline Mathlib/RingTheory/Flat/IsBaseChange.lean]: You also need some exactness assumptions right?

File: Mathlib/RingTheory/Flat/IsBaseChange.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Flat/IsBaseChange.lean]: I think Yury meant having `(comm1 : h₂.comp f = (f'.restrictScalars R).comp h₁)` in the lemma instead of including it. I personally think this is fine but what I think at would improve the readability much more is if you include the diagram in the module docstring here, and use the same variable names as in the diagram.

**Review by erdOne — COMMENTED** [review]
Some of these results have nothing to do with flatness right? Can you move them out?

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean [hunk 4]
```diff
@@ -0,0 +1,82 @@
...
+module
+
+public import Mathlib.Algebra.FiveLemma
+public import Mathlib.LinearAlgebra.DFinsupp
+public import Mathlib.LinearAlgebra.TensorProduct.RightExactness
+public import Mathlib.RingTheory.IsTensorProduct
+
+/-!
+
+# Lemmas about IsBaseChange under Exact Sequences
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean]:
```suggestion
# Lemmas about `IsBaseChange` under exact sequences
```

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean [hunk 5]
```diff
@@ -0,0 +1,82 @@
...
+
+variable {M₁ M₂ M₃ N₁ N₂ N₃ : Type*} [AddCommGroup M₁] [AddCommGroup M₂] [AddCommGroup M₃]
+  [AddCommGroup N₁] [AddCommGroup N₂] [AddCommGroup N₃] [Module R M₁] [Module R M₂] [Module R M₃]
+  [Module R N₁] [Module R N₂] [Module R N₃] [Module S N₁] [Module S N₂] [Module S N₃]
+  [IsScalarTower R S N₁] [IsScalarTower R S N₂] [IsScalarTower R S N₃]
+  (h₁ : M₁ →ₗ[R] N₁) (h₂ : M₂ →ₗ[R] N₂) (h₃ : M₃ →ₗ[R] N₃)
+  {f : M₁ →ₗ[R] M₂} {g : M₂ →ₗ[R] M₃} {f' : N₁ →ₗ[S] N₂} {g' : N₂ →ₗ[S] N₃}
+
+lemma IsBaseChange.of_right_exact (comm1 : h₂.comp f = (f'.restrictScalars R).comp h₁)
+    (comm2 : h₃.comp g = (g'.restrictScalars R).comp h₂)(isb1 : IsBaseChange S h₁)
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean]:
```suggestion
    (comm2 : h₃.comp g = (g'.restrictScalars R).comp h₂) (isb1 : IsBaseChange S h₁)
```

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean [hunk 6]
```diff
@@ -0,0 +1,82 @@
...
+    (isb2 : IsBaseChange S h₂) (exac1 : Function.Exact f g) (surj1 : Function.Surjective g)
+    (exac2 : Function.Exact f' g') (surj2 : Function.Surjective g') : IsBaseChange S h₃ := by
+  change Function.Bijective _ at isb1 isb2 ⊢
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean]: Can you please `rw` with the correct lemma instead?

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean [hunk 7]
```diff
@@ -0,0 +1,82 @@
...
+  [AddCommGroup N₁] [AddCommGroup N₂] [AddCommGroup N₃] [Module R M₁] [Module R M₂] [Module R M₃]
+  [Module R N₁] [Module R N₂] [Module R N₃] [Module S N₁] [Module S N₂] [Module S N₃]
+  [IsScalarTower R S N₁] [IsScalarTower R S N₂] [IsScalarTower R S N₃]
+  (h₁ : M₁ →ₗ[R] N₁) (h₂ : M₂ →ₗ[R] N₂) (h₃ : M₃ →ₗ[R] N₃)
+  {f : M₁ →ₗ[R] M₂} {g : M₂ →ₗ[R] M₃} {f' : N₁ →ₗ[S] N₂} {g' : N₂ →ₗ[S] N₃}
+
+lemma IsBaseChange.of_right_exact (comm1 : h₂.comp f = (f'.restrictScalars R).comp h₁)
+    (comm2 : h₃.comp g = (g'.restrictScalars R).comp h₂)(isb1 : IsBaseChange S h₁)
+    (isb2 : IsBaseChange S h₂) (exac1 : Function.Exact f g) (surj1 : Function.Surjective g)
+    (exac2 : Function.Exact f' g') (surj2 : Function.Surjective g') : IsBaseChange S h₃ := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean]:
```suggestion
    (isb2 : IsBaseChange S h₂) (exact1 : Function.Exact f g) (surj1 : Function.Surjective g)
    (exact2 : Function.Exact f' g') (surj2 : Function.Surjective g') : IsBaseChange S h₃ := by
```
Could you please also use unicode subscripts for consistency here?

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean [hunk 8]
```diff
@@ -0,0 +1,82 @@
...
+    simpa using congr(s • ($comm1 m)).symm
+  · ext s m
+    simpa using congr(s • ($comm2 m)).symm
+  · simpa [LinearMap.baseChange_eq_ltensor] using lTensor_exact S exac1 surj1
+  · simpa [LinearMap.baseChange_eq_ltensor] using LinearMap.lTensor_surjective S surj1
+
+lemma IsBaseChange.of_equiv_left (f : M₁ ≃ₗ[R] M₂) (f' : N₁ ≃ₗ[S] N₂)
+    (comm1 : h₂.comp f.toLinearMap = (f'.restrictScalars R).comp h₁)
+    (isb1 : IsBaseChange S h₁) : IsBaseChange S h₂ :=
+  IsBaseChange.of_right_exact S (f := (0 : Unit →ₗ[R] M₁)) (f' := (0 : Unit →ₗ[S] N₁))
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean]: Could you please move this to an earlier file and deduce it from a lemma about `IsTensorProduct` being stable under linear equiv's?

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean [hunk 9]
```diff
@@ -0,0 +1,82 @@
...
+public import Mathlib.Algebra.FiveLemma
+public import Mathlib.LinearAlgebra.DFinsupp
+public import Mathlib.LinearAlgebra.TensorProduct.RightExactness
+public import Mathlib.RingTheory.IsTensorProduct
+
+/-!
+
+# Lemmas about IsBaseChange under Exact Sequences
+
+In this file, we show that cokernel preserves `IsBaseChange S`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean]:
```suggestion
In this file, we show that taking cokernels commutes with base change.
```

File: Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean [hunk 10]
```diff
@@ -0,0 +1,82 @@
...
+For kernel version (needs flat), see `Mathlib.RingTheory.Flat.IsBaseChange`.
```
Comment (chrisflav) [inline Mathlib/RingTheory/TensorProduct/IsBaseChangeRightExact.lean]:
```suggestion
If `S` is flat, the same holds for kernels, see `Mathlib.RingTheory.Flat.IsBaseChange`.
```

File: Mathlib/RingTheory/Flat/IsBaseChange.lean [hunk 11]
```diff
@@ -0,0 +1,60 @@
...
+module
+
+public import Mathlib.Algebra.FiveLemma
+public import Mathlib.RingTheory.Flat.Basic
+
+/-!
+
+# Lemmas about `IsBaseChange` under exact sequences
+
+In this file, we show that if `S` is flat, taking kernels commutes with base change.
```
Comment (joelriou) [inline Mathlib/RingTheory/Flat/IsBaseChange.lean]:
```suggestion
In this file, we show that if `S` is a flat `R`-algebra, taking kernels commutes with base change
of modules from `R` to `S`.
```

File: Mathlib/RingTheory/IsTensorProduct.lean [hunk 12]
```diff
@@ -283,6 +283,30 @@ lemma assocOfMapSMul_symm_tmul (x₁ : M₁) (x₂ : M₂) (x₃ : M₃) :
 
 end
 
+section
+
+lemma linearEquiv_compr₂ (ist : IsTensorProduct f) (e : M ≃ₗ[R] M') :
```
Comment (joelriou) [inline Mathlib/RingTheory/IsTensorProduct.lean]:
```suggestion
lemma compr₂_linearEquiv (ist : IsTensorProduct f) (e : M ≃ₗ[R] M') :
```
And similarly for the other lemmas below.

File: Mathlib/RingTheory/IsTensorProduct.lean [hunk 13]
```diff
@@ -402,6 +426,31 @@ theorem IsBaseChange.linearMap : IsBaseChange S (Algebra.linearMap R S) :=
...
+lemma IsBaseChange.of_equiv_right (eM : M ≃ₗ[R] M') (eN : N ≃ₗ[S] N')
+    (comm : f'.comp eM.toLinearMap = (eN.restrictScalars R).comp f)
+    (isb : IsBaseChange S f') : IsBaseChange S f := by
+  refine IsBaseChange.of_equiv_left eM.symm eN.symm (LinearMap.ext fun y ↦ ?_) isb
+  obtain ⟨y, rfl⟩ := eM.surjective y
+  exact eN.injective (by simpa using congr($comm y).symm)
+
+lemma IsBaseChange.comp_equiv {M1 M2 N : Type*} [AddCommGroup M1] [AddCommGroup M2] [AddCommGroup N]
+    [Module R M1] [Module R M2] [Module R N] [Module S N] [IsScalarTower R S N] (e : M1 ≃ₗ[R] M2)
+    (f : M2 →ₗ[R] N) (isb : IsBaseChange S f) : IsBaseChange S (f.comp e.toLinearMap) :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/IsTensorProduct.lean]: Could you please try to re-use the section variables here and in the lemmas above?

File: Mathlib/RingTheory/IsTensorProduct.lean [hunk 14]
```diff
@@ -283,6 +283,30 @@ lemma assocOfMapSMul_symm_tmul (x₁ : M₁) (x₂ : M₂) (x₃ : M₃) :
...
 
+section
+
+lemma compr₂_linearEquiv (ist : IsTensorProduct f) (e : M ≃ₗ[R] M') :
+    IsTensorProduct (f.compr₂ e.toLinearMap) := by
+  simp only [IsTensorProduct] at ist ⊢
+  rw [TensorProduct.lift_compr₂]
+  exact e.bijective.comp ist
+
+lemma comp_compl₂_linearEquiv (ist : IsTensorProduct f) (e₁ : N₁ ≃ₗ[R] M₁) (e₂ : N₂ ≃ₗ[R] M₂) :
```
Comment (chrisflav) [inline Mathlib/RingTheory/IsTensorProduct.lean]:
```suggestion
lemma compl₂_comp_linearEquiv (ist : IsTensorProduct f) (e₁ : N₁ ≃ₗ[R] M₁) (e₂ : N₂ ≃ₗ[R] M₂) :
```

File: Mathlib/RingTheory/IsTensorProduct.lean [hunk 15]
```diff
@@ -402,6 +426,31 @@ theorem IsBaseChange.linearMap : IsBaseChange S (Algebra.linearMap R S) :=
...
+    (comm : f'.comp eM.toLinearMap = (eN.restrictScalars R).comp f)
+    (isb : IsBaseChange S f) : IsBaseChange S f' := by
+  simp only [IsBaseChange] at isb ⊢
+  convert (isb.compl₂_linearEquiv eM.symm).compr₂_linearEquiv (eN.restrictScalars R)
+  ext s m'
+  obtain ⟨m, rfl⟩ := eM.surjective m'
+  have : f' (eM m) = eN (f m) := LinearMap.congr_fun comm m
+  simp [this]
+
+lemma IsBaseChange.of_equiv_right (eM : M ≃ₗ[R] M') (eN : N ≃ₗ[S] N')
```
Comment (chrisflav) [inline Mathlib/RingTheory/IsTensorProduct.lean]: Could you please unify these two lemmas into one if-and-only-if statement?

**Comment by joelriou** [comment]
Thanks!

bors merge
